### PR TITLE
feat: Add `Fin.findSomeRev?` and `Fin.findRev?`

### PR DESCRIPTION
**Pull request by linesthatinterlace**
`Fin.findSomeRev?` and `Fin.findRev?`are obvious functions with a real, practical meaning which we do not have. This adds them.

This should not affect Mathlib except that there is some minor deprecation to do.

### CODE REVIEW

**Comment by fgdorais** [comment]
Interesting. I liked the `rev` lemmas since the `rev` API is a bit lacking. Maybe we can still have a separate `rev` PR? Or do you think they were really useless?

File: Batteries/Data/Fin/Lemmas.lean [hunk 1]
```diff
@@ -12,6 +12,10 @@ namespace Fin
 
 attribute [norm_cast] val_last
 
+/-! ### rev -/
+
+attribute [grind] rev_lt_rev rev_le_rev rev_rev
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: Should we make a quick PR to core?

File: Batteries/Data/Fin/Lemmas.lean [hunk 2]
```diff
@@ -47,42 +51,42 @@ theorem foldr_assoc {op : α → α → α} [ha : Std.Associative op] {f : Fin n
 @[simp] theorem findSome?_one {f : Fin 1 → Option α} : findSome? f = f 0 := rfl
 
 theorem findSome?_succ {f : Fin (n+1) → Option α} :
-    findSome? f = (f 0).or (findSome? fun i => f i.succ) := by
+    findSome? f = (f 0).or (findSome? (f ·.succ)) := by
   simp only [findSome?, foldl_succ, Option.orElse_eq_orElse, Option.orElse_eq_or]
   exact Eq.trans (by cases (f 0) <;> rfl) foldl_assoc
 
+@[deprecated findSome?_succ (since := "2025-10-06")]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: The replacement is not an exact replacement so I don't see the need to deprecate.

File: Batteries/Data/Fin/Lemmas.lean [hunk 3]
```diff
@@ -47,42 +51,42 @@ theorem foldr_assoc {op : α → α → α} [ha : Std.Associative op] {f : Fin n
...
 theorem findSome?_succ_of_some {f : Fin (n+1) → Option α} (h : f 0 = some x) :
-    findSome? f = some x := by simp [findSome?_succ, h]
+    findSome? f = some x := findSome?_succ.trans (h ▸ Option.some_or)
 
+@[deprecated findSome?_succ (since := "2025-10-06")]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: The replacement is not an exact replacement so I don't see the need to deprecate.

File: Batteries/Data/Fin/Lemmas.lean [hunk 4]
```diff
@@ -47,42 +51,42 @@ theorem foldr_assoc {op : α → α → α} [ha : Std.Associative op] {f : Fin n
...
 theorem findSome?_succ_of_isSome {f : Fin (n+1) → Option α} (h : (f 0).isSome) :
-    findSome? f = f 0 := by cases _h : f 0 <;> simp_all [findSome?_succ_of_some]
+    findSome? f = f 0 := findSome?_succ.trans (Option.or_of_isSome h)
 
+@[deprecated findSome?_succ (since := "2025-10-06")]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: The replacement is not an exact replacement so I don't see the need to deprecate.

File: Batteries/Data/Fin/Lemmas.lean [hunk 5]
```diff
@@ -47,42 +51,42 @@ theorem foldr_assoc {op : α → α → α} [ha : Std.Associative op] {f : Fin n
...
 theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
-    findSome? f = findSome? fun i => f i.succ := by simp [findSome?_succ, h]
+    findSome? f = findSome? (f ·.succ) := findSome?_succ.trans (Option.or_eq_right_of_none h)
 
+@[deprecated findSome?_succ (since := "2025-10-06")]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: The replacement is not an exact replacement so I don't see the need to deprecate.

File: Batteries/Data/Fin/Lemmas.lean [hunk 6]
```diff
@@ -176,32 +188,185 @@ theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i)
...
+theorem isSome_findSomeRev?_of_isSome {f : Fin n → Option α} (h : (f i).isSome) :
+    (findSomeRev? f).isSome := isSome_findSomeRev?_iff.2 ⟨_, h⟩
+
+theorem map_findSomeRev? (f : Fin n → Option α) (g : α → β) :
+    (findSomeRev? f).map g = findSomeRev? (Option.map g <| f ·) := by
+  induction n with
+  | zero => rfl
+  | succ n ih => simp [findSomeRev?_succ, Option.map_or, ih]
+
+theorem findSomeRev?_guard {p : Fin n → Bool} : findSomeRev? (Option.guard p) = findRev? p := rfl
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean:206]: simp?

File: Batteries/Data/Fin/Lemmas.lean [hunk 7]
```diff
@@ -127,6 +131,14 @@ theorem map_findSome? (f : Fin n → Option α) (g : α → β) :
 
 theorem findSome?_guard {p : Fin n → Bool} : findSome? (Option.guard p) = find? p := rfl
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean:124]: simp?

File: Batteries/Data/Fin/Lemmas.lean [hunk 8]
```diff
@@ -176,32 +188,185 @@ theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i)
...
+    findRev? p = if p (last n) then some (last n)
+    else (findRev? fun i => p i.castSucc).map Fin.castSucc := by
+  simp only [findRev?, findSomeRev?_succ, Option.guard, fun a => apply_ite (Option.or · a),
+    Option.some_or, Option.none_or, map_findSomeRev?, Option.map_if]
+
+@[simp, grind =]
+theorem findRev?_eq_some_iff {p : Fin n → Bool} :
+    findRev? p = some i ↔ p i ∧ ∀ j, i < j → p j = false := by simp [findRev?, and_assoc]
+
+theorem isSome_findRev?_iff {p : Fin n → Bool} :
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: simp?

File: Batteries/Data/Fin/Lemmas.lean [hunk 9]
```diff
@@ -176,32 +188,185 @@ theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i)
...
+    (findRev? p).isSome ↔ ∃ i, p i := by simp [findRev?]
+
+@[simp, grind =]
+theorem findRev?_eq_none_iff {p : Fin n → Bool} : findRev? p = none ↔ ∀ i, p i = false := by
+  simp [findRev?]
+
+theorem isNone_findRev?_iff {p : Fin n → Bool} : (findRev? p).isNone ↔ ∀ i, p i = false := by
+  simp [findRev?]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean]: Why doesn't `simp` just work here?

File: Batteries/Data/Fin/Lemmas.lean (hunk 1 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: Yes, I think that would be good.

File: Batteries/Data/Fin/Lemmas.lean (hunk 7 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean:124]: Where?

File: Batteries/Data/Fin/Lemmas.lean (hunk 9 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: It does.

File: Batteries/Data/Fin/Lemmas.lean (hunk 8 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: Is the issue that `findRev` should be an abbrev?

File: Batteries/Data/Fin/Lemmas.lean (hunk 6 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean:206]: ?

File: Batteries/Data/Fin/Lemmas.lean (hunk 1 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: (Do you want to or should I?)

Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean]: Go ahead!

File: Batteries/Data/Fin/Lemmas.lean (hunk 8 above)
Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean]: Same with `find?`?

**Comment by fgdorais** [comment]
Looks good. Please fix conflicts and decide whether `find?` and `findRev?` should be `abbrev`. That makes sense to me but I'm curious about downstream side-effects.

File: Batteries/Data/Fin/Lemmas.lean (hunk 8 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: Hmm - I think one still needs to apply associativity, is the issue.

File: Batteries/Data/Fin/Lemmas.lean (hunk 1 above)
Comment (wrenna-robson) [reply Batteries/Data/Fin/Lemmas.lean]: lean4#11065

File: Batteries/Data/Fin/Lemmas.lean [hunk 10]
```diff
@@ -16,6 +16,10 @@ namespace Fin
 
 attribute [norm_cast] val_last
 
+/-! ### rev -/
+
+attribute [grind =] rev_lt_rev rev_le_rev rev_rev
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean:22]:
```suggestion
-- Forward port of lean4#11065
attribute [grind =] rev_lt_rev rev_le_rev rev_rev
```
